US05714627
The same procedures as in Example 1 were used, except that the reaction temperature of the phenyl carbonate preparation step was 210° C. As a result, the yield of methyl phenyl carbonate was 17%, and the yield of diphenyl carbonate was 24%. Furthermore, at the same time, methyl benzoate was produced as a by-product with a yield of 41% (the yield was based on phenyl benzoate).

reactant | phenyl carbonate | C(OC1=CC=CC=C1)([O-])=O
reactant | methyl phenyl carbonate | C(OC)(OC1=CC=CC=C1)=O | C8H8O3
reactant | diphenyl carbonate | C(OC1=CC=CC=C1)(OC1=CC=CC=C1)=O | C13H10O3
product | methyl benzoate | yield of 41% | C(C1=CC=CC=C1)(=O)OC | C8H8O2
